US05223498
A mixture of 1-(n-butyl)-3-(2-morpholino phenyl)thiourea (5.8 g) and methyliodide (3.1 g) in acetone (25 ml) was heated at reflux for 4 hours to yield 2-methyl-3-(n-butyl)-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide as a colourless solid m.p. 154°-156° C.

reactant | 1-(n-butyl)-3-(2-morpholino phenyl)thiourea | 5.8 g | C(CCC)NC(=S)NC1=C(C=CC=C1)N1CCOCC1 | C15H23N3OS
reactant | methyliodide | 3.1 g | CI | CH3I
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2-methyl-3-(n-butyl)-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=NCCCC | InChI=1S/C16H25N3OS.HI/c1-3-4-9-17-16(21-2)18-14-7-5-6-8-15(14)19-10-12-20-13-11-19;/h5-8H,3-4,9-13H2,1-2H3,(H,17,18);1H
